US05683994
85.68 ml 1.6N butyllithium solution in hexane (0,136 mol) was admixed with 19.27 ml (0.136 mol) diisopropylamine at -10° C. under nitrogen. Afterwards the white suspension was stirred for 30 minutes at -10° C., admixed with 200 ml absolute tetrahydrofuran (abs. THF) and the lithium diisopropylamide solution obtained was cooled to -78° C. Subsequently a solution of 25.6 ml (0.2 mol) freshly distilled chlorotrimethylsilane in 20 ml abs. THF was quickly added, a solution of 24.5 g (0.109 mol) 3-(3,4-dimethoxyphenyl)-propionic acid methyl ester in 50 ml abs. THF was then added dropwise within 10 minutes and afterwards the reaction mixture was stirred for one hour at -78° C. Subsequently 22.6 g (0.127 mol) N-bromosuccinimide was added, the reaction mixture was allowed to reach room temperature (1 h) and it was stirred for a further 8 hours. After removing the precipitate that formed by filtration, the mother liquor was concentrated in a vacuum, the residue was taken up in 100 ml diethyl ether, the ether solution was washed with saturated sodium thiosulfate solution and dried over sodium sulfate. After removing the ether, 33.8 g 2-bromo-3-(3,4-dimethoxyphenyl)-propionic acid methyl ester was obtained as a light brown oil. 1H-NMR (CDCl3): δ=6.75 (m, 3H); 4.35 (dd, 1H); 3.85 (s, 3H); 3.83 (s, 3H); 3.7 (s, 3H); 3.4 (dd, 1H); 3.15 (dd, 1H).

reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
reactant | 3-(3,4-dimethoxyphenyl)-propionic acid methyl ester | 0.109 mol, 24.5 g | COC(CCC1=CC(=C(C=C1)OC)OC)=O | C12H16O4
reactant | N-bromosuccinimide | 0.127 mol, 22.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | C1CCOC1 | C4H8O
product | 2-bromo-3-(3,4-dimethoxyphenyl)-propionic acid methyl ester | 33.8 g | COC(C(CC1=CC(=C(C=C1)OC)OC)Br)=O | C12H15BrO4
